US08389511B2
6-Bromo-3-methyl-1,3-dihydro-2H-indol-2-one
To 2,6-dibromo-3-methyl-1H-indole (15.7 g) were added 3N aqueous sulfuric acid solution (100 ml) and dioxane (100 ml), and the mixture was refluxed for 5 hours. After the reaction was complete, water was added to the reaction solution, and the mixture was extracted with ethyl acetate solution. This ethyl acetate solution was washed with water and an aqueous sodium chloride solution, dried over magnesium sulfate, filtered, and concentrated. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1) to give the title compound (11.2 g) as a brown crystal.

reactant | 2,6-dibromo-3-methyl-1H-indole | 15.7 g | BrC=1NC2=CC(=CC=C2C1C)Br | C9H7Br2N
reactant | sulfuric acid | 3N, 100 ml | S(O)(O)(=O)=O | H2O4S
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 6-Bromo-3-methyl-1,3-dihydro-2H-indol-2-one | 11.2 g | BrC1=CC=C2C(C(NC2=C1)=O)C | C9H8BrNO
